US04970213
A mixture of 11.3 g of ethyl 2-(2,7,-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate and 5.65 g of 3-amino-1,2,4-triazine in 60 cm3 of trichloromethane is stirred for 16 hours at a temperature close to 20 C. The reaction mixture is concentrated to dryness under reduced pressure (20 kPa) at a temperature close to 30° C. The residue is taken up in 60 cm3 of ethanol and 5.6 g of DBU and the mixture is heated at a temperature close to 75° C. for 20 hours. After cooling to 20° C., the insoluble matter is drained and washed with twice 40 cm3 of ethanol. 6.1 g of 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine are obtained in the form of a brown solid which decomposes at 378°-380° C. and which can be used for the subsequent steps without further purification.

reactant | ethyl 2-(2,7,-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 11.3 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)Cl | C17H15Cl2FN2O3
reactant | 3-amino-1,2,4-triazine | 5.65 g | NC=1N=NC=CN1 | C3H4N4
solvent | trichloromethane | 60 cm3 | ClC(Cl)Cl | CHCl3
product | 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine | 6.1 g | ClC=1C(=CC=2C(=NC=3NC=C(C(C3C2)=O)C(=O)OCC)C1)F | C15H10ClFN2O3
